US07834190B2
Production of (2S,3S)-3-amino-2-hydroxy-hexanoic acid hydrochloride
Methyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate (0.68 g, 3 mmol) and 6 N hydrochloric acid (10 ml) were mixed, and the mixture was stirred at 100° C. for 14 hours. The solvent was evaporated away under reduced pressure to obtain the title compound as a white solid (0.50 g, yield: 90%)

reactant | Methyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate | 3 mmol, 0.68 g | CC=1O[C@@H]([C@@H](N1)CCC)C(=O)OC | C9H15NO3
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
product | (2S,3S)-3-amino-2-hydroxy-hexanoic acid hydrochloride | 0.50 g, yield: 90% | Cl.N[C@H]([C@@H](C(=O)O)O)CCC | InChI=1S/C6H13NO3.ClH/c1-2-3-4(7)5(8)6(9)10;/h4-5,8H,2-3,7H2,1H3,(H,9,10);1H/t4-,5-;/m0./s1
